US04076729
2-Methyl-3-amino-4H-1-benzopyran-4-one
A mixture of 2-methyl-3-nitro-4H-1-benzopyran-4-one (5.0g, 0.244 mole) and 10% palladium on charcoal (0.75g) in ethanol (250 ml) was shaken under a hydrogen atmosphere in a Parr shaker for 40 minutes. The catalyst was filtered off, and the solvent was removed under reduced pressure to give yellow solids. Recrystallization from benzene gave yellow crystals (2.4g, 56%), m.p. 118°-20° C.

reactant | 2-methyl-3-nitro-4H-1-benzopyran-4-one | 0.244 mole, 5.0g | CC=1OC2=C(C(C1[N+](=O)[O-])=O)C=CC=C2 | C10H7NO4
catalyst | palladium on charcoal | 0.75g | [Pd] | Pd
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 2-Methyl-3-amino-4H-1-benzopyran-4-one | 2.4g, 56% | CC=1OC2=C(C(C1N)=O)C=CC=C2 | C10H9NO2
